US09210927B2
Preparation of (E)-1-(2-Chloro-4-(3-(3,5-dichlorophenyl)-4,4,4-trifluorobut-1-en-1-yl)benzyl)-3-ethylurea (CC31)
To a stirred solution of (E)-(2-chloro-4-(3-(3,5-dichlorophenyl)-4,4,4-trifluorobut-1-en-1-yl)phenyl)methanamine (0.2 g, 0.5 mmol) in CH2Cl2 (5 mL) at 0° C. were added TEA (0.141 mL, 1 mmol) and ethylisocyanate (0.053 g, 0.75 mmol), and the reaction mixture was stirred for 1 h at 0° C. The reaction mixture was diluted with CH2Cl2. The organic layer was washed with H2O and brine, dried over Na2SO4, and concentrated under reduced pressure. Purification by column chromatography (SiO2, 100-200 mesh; 30-50% EtOAc in hexane) afforded the title compound as a solid (0.141 g, 60%): mp 177-178° C.; 1H NMR (400 MHz, CDCl3) δ 7.58 (m, 2H), 7.41 (m, 3H), 7.24 (m, 1H), 6.53 (d, J=16.0 Hz, 1H), 6.35 (dd, J=16.0, 8.0 Hz, 1H), 4.70 (br s, 1H), 4.43 (s, 2H), 4.08 (m, 1H), 3.21 (m, 2H), 1.25 (m, 3H); ESIMS m/z 463 ([M−H]−).

reactant | (E)-(2-chloro-4-(3-(3,5-dichlorophenyl)-4,4,4-trifluorobut-1-en-1-yl)phenyl)methanamine | 0.5 mmol, 0.2 g | ClC1=C(C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)CN | C17H13Cl3F3N
reactant | ethylisocyanate | 0.75 mmol, 0.053 g | C(C)N=C=O | C3H5NO
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (E)-1-(2-Chloro-4-(3-(3,5-dichlorophenyl)-4,4,4-trifluorobut-1-en-1-yl)benzyl)-3-ethylurea | 0.141 g, 60% | ClC1=C(CNC(=O)NCC)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C20H18Cl3F3N2O
